US08975415B2
A 3-necked-flask was charged with dimethylsulfoxide (17 ml) and potassium hydroxide (0.84 g, 15 mmol). Then trimethylsulfoxonium iodide (3.3 g, 15 mmol) was added and the mixture was stirred at room temperature for 30 minutes. To this mixture, 6-bromo-2,2-dimethyl-3-methylene-2,3-dihydro-4H-chromen-4-one (2.0 g, 7.5 mmol) and dimethylsulfoxide (3 ml) were added. The mixture was stirred at room temperature for 15 hours and then water (30 ml) was added. The mixture was extracted with a mixture of hexane (70 ml) and ethyl acetate (70 ml). The organic layer was washed with water (50 ml) twice and then with brine (30 ml), dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography (NH-silica gel, hexane/ethyl acetate=100:1-20:1) to afford 6-bromo-2,2-dimethyl-4H-spiro[chromene-3,1′-cyclopropan]-4-one (1.2 g).

reactant | dimethylsulfoxide | 17 ml | CS(=O)C | C2H6OS
reactant | potassium hydroxide | 15 mmol, 0.84 g | [OH-].[K+]
reactant | trimethylsulfoxonium iodide | 15 mmol, 3.3 g | [I-].C[S+](=O)(C)C
reactant | 6-bromo-2,2-dimethyl-3-methylene-2,3-dihydro-4H-chromen-4-one | 7.5 mmol, 2.0 g | BrC=1C=C2C(C(C(OC2=CC1)(C)C)=C)=O | C12H11BrO2
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | water | 30 ml | O | H2O
product | 6-bromo-2,2-dimethyl-4H-spiro[chromene-3,1′-cyclopropan]-4-one | 1.2 g | BrC=1C=C2C(C3(CC3)C(OC2=CC1)(C)C)=O | C13H13BrO2
